US05532367
This compound is prepared in a manner analogous to that of Step C of Example 7, using 2.9 grams (0.009 mole) of 2-amino-3-cyano-5-[(4-trifluoromethylphenyl)ethynyl]pyrazine and 0.9 gram (0.009 mole) of chloroformamidine hydrochloride in 20 mL of diglyme, yielding 2,4-diamino-6-[1 -chloro-2-(4-trifluoromethylphenyl)ethenyl]pteridine.

reactant | 2-amino-3-cyano-5-[(4-trifluoromethylphenyl)ethynyl]pyrazine | 0.009 mole, 2.9 grams | NC1=NC=C(N=C1C#N)C#CC1=CC=C(C=C1)C(F)(F)F | C14H7F3N4
reactant | chloroformamidine hydrochloride | 0.009 mole, 0.9 gram | Cl.ClC(=N)N
solvent | diglyme | 20 mL | COCCOCCOC | C6H14O3
product | 2,4-diamino-6-[1 -chloro-2-(4-trifluoromethylphenyl)ethenyl]pteridine | NC1=NC2=NC=C(N=C2C(=N1)N)C(=CC1=CC=C(C=C1)C(F)(F)F)Cl | C15H10ClF3N6
